US06153768
Synthesis of (3RS,4RS)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-[8-(p-toluenesulfonyloxy)octyl]-2,3-dihydro-4H-benzopyran
(3RS,4RS)-4-(8-Hydroxyoctyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran (80 mg, 0.17 mmol) was dissolved in pyridine (2 ml) and dichloromethane (0.5 ml) and then cooled to 0° C. p-Toluenesulfonylchloride (0.12 g, 0.63 mmol) was added thereto and the mixture was stirred for 6 hours at room temperature. Water was added thereto at 0° C. and the reaction solution was extracted with ethyl acetate, washed with saturated saline and then dried over magnesium sulfate. The residue was subjected to column chromatography (n-hexane:ethyl acetate=4:1) to obtain 110 mg (yield: ~100%) of the title compound as a colorless oil.

reactant | (3RS,4RS)-4-(8-Hydroxyoctyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran | 0.17 mmol, 80 mg | OCCCCCCCCC1C(COC2=C1C=CC(=C2)OCOC)(C)C2=CC=C(C=C2)OCOC | C28H40O6
reactant | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
reactant | p-Toluenesulfonylchloride | 0.63 mmol, 0.12 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (3RS,4RS)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-[8-(p-toluenesulfonyloxy)octyl]-2,3-dihydro-4H-benzopyran | 110 mg, yield: ~100% | COCOC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)OCOC)CCCCCCCCOS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C35H46O8S
